* VBIC NPN output characteristics: Ic vs Vce at multiple Vbe.
* Expected results: device_vbic_output.expected.json
* Origin: benchmark/fixtures/devices/vbic_output/circuit.sp
* Tests VBIC (level 4) model with enhanced Early effect and parasitic PNP.
Vce col 0 DC 0
Vbe base 0 DC 0.7
Q1 col base 0 0 vb1
.model vb1 NPN(LEVEL=4 IS=1e-16  NF=1 NR=1 IKF=30m IKR=5m   RBI=50 RCI=20 RE=1 RBX=10 RCX=5)
.dc Vce 0 5 0.025 Vbe 0.6 0.8 0.025
.end
