* Fourier fundamental must be positive.
* Expected results: four_zero_fundamental.expected.json
Vin in 0 1
R1 in out 1k
R2 out 0 1k
.four 0 v(out)
.end
